US06251926B1
After a mixture of 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine (600 mg), methyl 4-oxo-4-phenylbutyrate (371 mg), acetic acid (0.331 ml), sodium acetate (317 mg) and methanol (20 ml) was heated to reflux for 40 hours, the mixture was cooled to room temperature. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain methyl E-4-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-phenylbutyrate (570 mg, yield 61%) as a colorless oil from an ethyl acetate-hexane (1:4, v/v)-eluted fraction.

reactant | 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine | 600 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(CON)C=CC1 | C18H18N2O3
reactant | methyl 4-oxo-4-phenylbutyrate | 371 mg | O=C(CCC(=O)OC)C1=CC=CC=C1 | C11H12O3
reactant | acetic acid | 0.331 ml | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 317 mg | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | Water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | methyl E-4-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-phenylbutyrate | 570 mg, yield 61% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(CO\N=C(/CCC(=O)OC)\C2=CC=CC=C2)C=CC1 | C29H28N2O5
